Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia on outpatient labs
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ man with history of pyoderma
gangrenosum presenting with weakness and presyncope.

The patient tells me that he has had syncopal/pre-syncopal
episodes since he was ___ years old. He gets palpitations,
"spaghetti legs," ringing in his ears, flashes of light in his
vision, and sometimes loses consciousness. When they began, he
used to have them once or twice per year, but over the last 6
months the frequency of these episodes has increased and now he
has them daily or every other day. He denies any provoking
factors. He does note that these episodes only occur when
standing, never when seated or lying down.

He also notes that over the past several months he has been
increasingly fatigued and has felt short of breath with 
exertion.
He denies any hematemesis, hematochezia, or melena. No 
hematuria.
He reports unintentional weight loss over about 30 pounds over
the past 6 months. He thinks that this is because he has been
spending a lot of time in bed since a dirt-biking accident. He
reports a normal/varied diet: he typically has eggs and toast 
for
breakfast, a sandwich for lunch, pasta for dinner.

He also reports that about a year ago he had a dirt-biking
accident. After that, perhaps ___ months ago he developed a rash
on the back of his neck. Ultimately, he was diagnosed with
pyoderma gangrenosum and was started on topical betamethasone 
and
oral prednisone (initially on 60 mg daily and currently on 40 mg
daily with no current plans for tapering). He notes that he has
had multiple lesion on his skin over the past several months and
these have been slow to heal. He denies any arthritis.

He tells me that he saw his PCP for these issues at the end of
___, and was found to have anemia. He was referred to a
hematologist but has not yet seen them and given his profound
anemia was referred to the ED for further evaluation.

In the ED, vitals: 97.6 90 117/65 17 100% RA 
Exam notable for: Fecal occult negative brown stool; b/l foot
edema
Labs notable for: WBC 10, Hb 4.5, plt 196, INR 1.1, fibrinogen
397
Patient given: 1 unit pRBC

On arrival to the floor, the patient reports that he feels pain
in his neck at the site of his pyoderma. He otherwise denies any
dizziness, lightheadedness, chest pain, shortness of breath at
present.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

Of note: outpatient hemoglobin trend was as follows - Hb 15 on 
___, Hb 14.9 on ___, Hb 12.3 on ___, Hb 10 on 
___, Hb 5.3 on ___

 
Past Medical History:
- Pyoderma gangrenosum
- Depression/anxiety
 
Social History:
___
Family History:
No known family history of inflammatory bowel
disease or hematologic malignancy.

 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.6 128/75 76 18 99 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.  
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; bilateral pedal edema,
right>left
SKIN: Large ulcerated lesion on back of neck; many circular
papules in various stages of healing on torso, arms, legs
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Depressed mood and affect

DISCHARGE EXAM:
GENERAL: Alert, anxious, asking when he can leave the hospital
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.  
MSK: bilateral pedal edema, right>left
SKIN: Large ulcerated lesion on back of neck; many circular
papules in various stages of healing on torso, arms, legs
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Anxious, somewhat agitated
 
Pertinent Results:
ADMISSION LABS:
___ 10:00PM BLOOD WBC: 10.0 RBC: 2.88* Hgb: 4.5* Hct: 18.1*
MCV: 63* MCH: 15.6* MCHC: 24.9* RDW: 22.5* RDWSD: 47.6* Plt Ct:
196 
___ 10:00PM BLOOD Neuts: 66.8 Lymphs: ___ Monos: 9.0 Eos:
0.1* Baso: 0.1 Im ___: 1.4* AbsNeut: 6.70* AbsLymp: 2.27
AbsMono: 0.90* AbsEos: 0.01* AbsBaso: 0.01 
___ 10:00PM BLOOD ___: 12.1 PTT: 21.5* ___: 1.1 
___ 10:00PM BLOOD Fibrino: ___ 10:00PM BLOOD Ret Aut: 1.9 Abs Ret: 0.05 
___ 10:00PM BLOOD Glucose: 102* UreaN: 15 Creat: 0.9 Na: 
137
K: 4.3 Cl: 101 HCO3: 28 AnGap: 8* 
___ 10:00PM BLOOD ALT: 18 AST: 10 LD(LDH): 158 AlkPhos: 46
TotBili: 0.2 
___ 10:00PM BLOOD Albumin: 4.0 Calcium: 9.0 Phos: 3.3 Mg:
2.1 Iron: 13* 
___ 10:00PM BLOOD calTIBC: 428 Hapto: ___ Ferritn: 3.7* 
TRF:
329 

INTERVAL DATA:
___ 12:10AM BLOOD HIV Ab: NEG
___ 06:14AM BLOOD HCV Ab-NEG
___ 06:14AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS*
___ 03:25PM BLOOD VitB12-244
___ 06:40AM BLOOD TSH-1.2
___ 12:10AM BLOOD T3-75* Free T4-1.2
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD tTG-IgA-4
___ 12:10AM BLOOD CRP-13.3*
___ 06:40AM BLOOD IgG-701 IgA-249 IgM-86
___ 10:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:25PM BLOOD ZINC (SPIN NVY/EDTA)-Test      
___ 03:25PM BLOOD COPPER (SPIN NVY/NO ADD)-Test      
___ 06:40AM BLOOD CRYOGLOBULIN-PND
___ 10:44AM URINE Hemosid-NEG
___ 10:44AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

Imaging:
- EKG: Reviewed by me. NSR, NA/NI, no acute ischemic changes

Colonoscopy ___
Normal mucosa in the whole colon and 10 cm into the terminal 
ileum (biopsy taken)

EGD ___
Normal mucosa in the esophagus, erythema in the stomach 
compatible with gastritis (biopsy), normal mucosa in the whole 
examined duodenum (biopsy)

DISCHARGE LABS:
___ 06:14AM BLOOD WBC-9.4 RBC-3.77* Hgb-7.2* Hct-26.0* 
MCV-69* MCH-19.1* MCHC-27.7* RDW-26.7* RDWSD-62.7* Plt ___
___ 06:14AM BLOOD Plt ___
___ 06:14AM BLOOD Glucose-77 UreaN-11 Creat-0.9 Na-142 
K-4.3 Cl-106 HCO3-23 AnGap-___ yo M PMHx newly diagnosed pyoderma gangrenosum who went to 
see his PCP with complaint of weakness and pre-syncope, referred 
to the ED after outpatient lab testing showed severe iron 
deficiency anemia.  He underwent EGD and colonoscopy this 
hospitalization without a source found.  He left AMA before full 
work-up could be completed.

# Iron deficiency anemia: 
Patient found to have profound, hemodynamically stable iron 
deficiency anemia.  The patient was transfused two units pRBCs 
with appropriate response.    Hematology and Gastroenterology 
were consulted.  He underwent EGD and colonoscopy which were 
unremarkable for source of bleeding.  He did have gastritis for 
which he was started on a PPI.  Biopsies were taken and pending 
at the time of discharge.  Celiac tTG testing was negative and 
stool H pylori testing negative.  The remaining differential 
included malabsorption (though zinc, copper and B12 levels were 
wnl and as above, colonoscopy unremarkable) vs. PNH (less likely 
as urine hemosiderin negative) vs. rare inherited iron 
absorption disorders for which testing had not yet been sent.  
He was started on oral iron supplementation.  The patient wanted 
to leave the hospital immediately after EGD/colonoscopy.  He 
left AMA with the phone number to our ___ for 
further work-up and monitoring.   

# Pyoderma gangrenosum:
As per HPI, the patient reported a cutaneous injury to the 
posterior neck in a dirt bike accident in ___.  After 
the accident, the neck wound increased in size and become 
extremely painful. He was seen by numerous physicians, including 
dermatology at ___ and ___.  Per Dermatology note, "at 
prior visits to four dermatologists in ___, the wound was not 
felt consistent with a neutrophilic dermatosis like PG.  There 
was concern for self-inflicted or self-perpetuated ulcers of the 
neck and extremities."  He had a biopsy in ___ which 
showed ulcer but no evidence of PG.  He was subsequently seen by 
___ Dermatology where the clinical diagnosis of PG was 
made.  He was started on topical betamethasone and
PO prednisone in ___.  During this admission, he was 
continued on his home medications topical betamethasone and PO 
prednisone 40 mg daily.  Dermatology was consulted.  They 
recommended addition of topical mupirocin BID x 2 weeks.  While 
they did not think the ulcer was consistent with PG, the patient 
had been on PO steroids which could have resulted in a partially 
treated PG which lacked the classic features.  Dermatology also 
raised the possibility of cervical trophic syndrome secondary to 
nerve damage sustained in the motor bike accident.  The patient 
may have had abnormal itch sensation leading to conscious or 
subconscious manipulation of the ulcer.  They recommended 
outpatient Neurology follow-up.  The patient was continued on 
his home medications and recommended to follow-up with his 
outpatient Dermatologist for further steroid tapering and 
discussion of starting Bactrim prophylaxis.

# CBD Use 
# Patient safety event
Patient reported CBD and marijuana use at home.  During this 
admission, the patient's room was noted to smell of marijuana on 
the morning of ___.  The patient initially denied but later 
admitted to vaping marijuana in his room.  His things were 
subsequently searched and all smoking materials removed.  A 
safety report was filed.  The patient was counseled on hospital 
policy.  An alert placed in patient's chart. 

# Pedal edema: Suspected secondary to steroid use.

# Nicotine dependence: Nicotine patch while hospitalized, 
counseled on smoking cessation

# Depression/anxiety:  Continued home citalopram, lorazepam

TRANSITIONAL ISSUES:
[] Repeat hemoglobin in ___ days
[] Follow-up with ___ Hematology for further ___
[] Consider starting Bactrim prophylaxis while patient on high 
dose steroids
[] Consider referral to Neurology for work-up of possible 
cervical spine damage and/or cervical trophic syndrome as a 
result of motor bike accident
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
2. Betamethasone Valerate 0.1% Cream 1 Appl TP BID 
3. Citalopram 20 mg PO DAILY 
4. PredniSONE 40 mg PO DAILY 
5. LORazepam 1 mg PO QHS:PRN Insomnia 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Mupirocin Ointment 2% 1 Appl TP BID to all open skin wounds 
RX *mupirocin 2 % apply to skin wounds twice a day Refills:*0 
3.  Nicotine Patch 14 mg/day TD QPM 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour apply 1 patch once a 
day Disp #*30 Patch Refills:*0 
4.  Pantoprazole 20 mg PO Q24H 
RX *pantoprazole 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
6.  Betamethasone Valerate 0.1% Cream 1 Appl TP BID  
7.  Citalopram 20 mg PO DAILY  
8.  LORazepam 1 mg PO QHS:PRN Insomnia  
9.  PredniSONE 40 mg PO DAILY  
10.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with severe iron deficiency anemia.  We 
did not find out the cause for your iron deficiency anemia while 
you were here.  You had an EGD and a colonoscopy.  No source of 
active bleeding was found.  We recommended you stay in the 
hospital for additional testing and monitoring but you did not 
want to stay.  You are being discharged against medical advice.

We recommend you follow-up with your primary care doctor as soon 
as possible, and have a repeat blood test on ___.
 
Followup Instructions:
___